US07728030B2
4-Hydrazinobenzoic acid (11.32 g, 60 mmol) and cesiumcarbonate (58.65 g, 180 mmol) are added to 2-fluoro-5-iodobenzaldehyde (15 g, 60 mmol) in 300 mL N-methylpyrrolidon. After 1 h stirring at r.t., the reaction is heated for 4 h at 150° C. The reaction mixture is allowed to cool off and poured on 1 L ice water. The reaction mixture is acidified with citric acid and vigorously stirred at r.t. for 30 min. The precipitate is filtered off and given in ethyl acetate. The slurry is vigorously stirred for 1 h and sucked off. The filter residue (few material) is discarded and the filtrate evaporated. This residue which is contaminated with N-methylpyrrolidine is treated with 300 mL of a mixture of ethyl acetate/hexane (1:3) and stirred overnight. The precipitated crystals are sucked off and dried. 17.11 g (78.32%) of 4-(5-iodoindazole-1-yl)-benzoic acid are obtained.

reactant | 4-Hydrazinobenzoic acid | 60 mmol, 11.32 g | N(N)C1=CC=C(C(=O)O)C=C1 | C7H8N2O2
reactant | cesiumcarbonate | 180 mmol, 58.65 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-fluoro-5-iodobenzaldehyde | 60 mmol, 15 g | FC1=C(C=O)C=C(C=C1)I | C7H4FIO
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | N-methylpyrrolidon | 300 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(5-iodoindazole-1-yl)-benzoic acid | 17.11 g, 78.32% | IC=1C=C2C=NN(C2=CC1)C1=CC=C(C(=O)O)C=C1 | C14H9IN2O2
